US09168245B2
Synthesis of intermediate V-h: 4-(3-Bromo-propoxy)-1-methyl-2-nitro-benzene
A solution of 4-methyl-3-nitrophenol (1.00 g, 6.53 mmol) in DMF (6 mL) was treated with K2CO3 (0.903 g, 6.53 mmol) and 1,3-dibromopropane (6.63 mL, 65.3 mmol) and heated to 100° C. for 2.5 h. The cooled mixture was diluted with water and extracted with DCM. The combined organics were dried (MgSO4), filtered and evaporated before purification by column chromatography (SiO2; eluting with 20% EtOAc in cyclohexane) to afford the desired product V-h as a mobile yellow oil (1.05 g, 59%). 1H NMR (300 MHz, CDCl3) δ 7.52 (d, J=2.7 Hz, 1H), 7.23 (d, J=8.5 Hz, 1H), 7.06 (dd, J=8.5, 2.7 Hz, 1H), 4.14 (t, J=5.8 Hz, 2H), 3.60 (t, J=6.4 Hz, 2H), 2.53 (s, 3H), 2.40-2.24 (m, 2H).

reactant | 4-methyl-3-nitrophenol | 6.53 mmol, 1.00 g | CC1=C(C=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
reactant | K2CO3 | 6.53 mmol, 0.903 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,3-dibromopropane | 65.3 mmol, 6.63 mL | BrCCCBr | C3H6Br2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(3-Bromo-propoxy)-1-methyl-2-nitro-benzene | BrCCCOC1=CC(=C(C=C1)C)[N+](=O)[O-] | C10H12BrNO3
